US04906622
(-)-2-Chloro-12-(3-dimethylamino-2-methylpropyl)-12H-dibenzo[d,g][1,3,6]dioxazocine
To a stirred mixture of 19.0 g (0.038 moles) of (-)-2-chloro-12-(3-dimethylamino-2-methylpropyl)-12H-dibenzo[d,g][1,3,6]dioxazocine L(+)-tartrate, 100 cm3 of water and 100 cm3 of dichloromethane 25 percent aqueous ammonia is added until a pH value of 10. The mixture is stirred for further 30 minutes, the organic phase is separated and the solvent is removed under reduced pressure. The viscous residue is dissolved in 28 cm3 of isopropanol, cooled to 0° C. and the crystals are filtered. 11.1 g 84.0% of the title compound are obtained, m.p.: 92°-95° C.

reactant | (-)-2-chloro-12-(3-dimethylamino-2-methylpropyl)-12H-dibenzo[d,g][1,3,6]dioxazocine L(+)-tartrate | 0.038 moles, 19.0 g | C(=O)(O)[C@H](O)[C@@H](O)C(=O)O.ClC1=CC2=C(OCOC3=C(N2CC(CN(C)C)C)C=CC=C3)C=C1
reactant | water | 100 cm3 | O | H2O
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
product | (-)-2-Chloro-12-(3-dimethylamino-2-methylpropyl)-12H-dibenzo[d,g][1,3,6]dioxazocine | 11.1 g, 84.0% | ClC1=CC2=C(OCOC3=C(N2CC(CN(C)C)C)C=CC=C3)C=C1 | C19H23ClN2O2
